US04849419
4-Nitrobenzyl 2-[4(S)-chloro-3(S)-(1(R)-hydroxyethyl)azetidin-2-on-1-yl]-3-[4-(2,4,5-trichlorophenylthio(carbonyl))-phenoxy]-3-trimethylacetylthiopropenoate
To a stirred solution of 1.26 g of 4-nitrobenzyl 2-[4(R)-ethylthio-3(S)-(1(R)-hydroxyethyl)-azetidin-2-on-1-yl]-3-[4-(2,4,5-trichlorophenylthio-(carbonyl))-phenoxy]-3-trimethylacetylthiopropenoate in 30 ml of dry chloroform at -40° C. was added a solution of 1.83 mmol chlorine in 4 ml of carbon tetrachloride, and the solution was stirred for 30 minutes. The reaction mixture was allowed to reach room temperature and evaporated to dryness. Chromatography of the residue (silica gel, hexane/ethyl acetate mixtures as eluant) gave the title compound as a pale yellow foam (0.706 g). νmax (CHCl3) 1784 cm-1.

reactant | 4-nitrobenzyl 2-[4(R)-ethylthio-3(S)-(1(R)-hydroxyethyl)-azetidin-2-on-1-yl]-3-[4-(2,4,5-trichlorophenylthio-(carbonyl))-phenoxy]-3-trimethylacetylthiopropenoate | 1.26 g | C(C)S[C@@H]1[C@H](C(N1C(C(=S)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C(C(C)(C)C)=O)OC1=CC=C(C=C1)C(=O)SC1=C(C=C(C(=C1)Cl)Cl)Cl)=O)[C@@H](C)O | C35H33Cl3N2O8S3
reactant | chlorine | 1.83 mmol | ClCl | Cl2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | carbon tetrachloride | 4 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Nitrobenzyl 2-[4(S)-chloro-3(S)-(1(R)-hydroxyethyl)azetidin-2-on-1-yl]-3-[4-(2,4,5-trichlorophenylthio(carbonyl))-phenoxy]-3-trimethylacetylthiopropenoate | 0.706 g | Cl[C@H]1[C@H](C(N1C(C(=S)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C(C(C)(C)C)=O)OC1=CC=C(C=C1)C(=O)SC1=C(C=C(C(=C1)Cl)Cl)Cl)=O)[C@@H](C)O | C33H28Cl4N2O8S2
